US07034039B2
To a solution of tert-butyl[6-(2-amino-2-oxoethoxy)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.28 g, 0.6 mmol) in ethyl acetate (5 mL) was added a-solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give 2-[[3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride (0.23 g, 92.0%) as crystals.

reactant | tert-butyl[6-(2-amino-2-oxoethoxy)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.6 mmol, 0.28 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCC(=O)N)=O)CC1CC1)=O | C25H35N3O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride | 0.23 g, 92.0% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCC(=O)N)=O)CC1CC1 | InChI=1S/C20H27N3O4.ClH/c1-2-3-8-26-19-16-9-14(27-12-18(22)24)6-7-15(16)20(25)23(17(19)10-21)11-13-4-5-13;/h6-7,9,13H,2-5,8,10-12,21H2,1H3,(H2,22,24);1H
